US08334295B2
To a stirred solution of (1-hydroxymethyl-cyclopropyl)-acetic acid methyl ester (600 mg, 4.16 mmol) in dichloromethane (10 mL) cooled in dry ice-acetone bath (−40° C.), was added methanesulfonyl chloride (483 μL, 6.24 mmol). The mixture was then cooled to −60° C. and triethylamine (928 μA, 6.66 mmol) was added. With stirring, the mixture was warmed up to 0° C. during 1 hr. After cooling the mixture to −15° C., cold 3 N HCl solution (0.6 mL), cold brine (2 mL), and dichloromethane (25 mL) were added in this order. The mixture was washed with cold brine (25 mL) twice, dried with MgSO4, filtered, and evaporated in vacuo to give 962 mg (quantitative) of crude (1-methanesulfonyloxymethyl-cyclopropyl)-acetic acid methyl ester as a colorless oil. This crude product was used directly in the next reaction without further purification. 1H-NMR (200 MHz, CDCl3) δ 0.62-0.72 (4H, m), 2.42 (2H, s), 3.02 (3H, s), 3.70 (3H, s), 4.17 (2H, s).

reactant | (1-hydroxymethyl-cyclopropyl)-acetic acid methyl ester | 4.16 mmol, 600 mg | COC(CC1(CC1)CO)=O | C7H12O3
reactant | methanesulfonyl chloride | 6.24 mmol, 483 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6.66 mmol | C(C)N(CC)CC | C6H15N
reactant | HCl | 3 N, 0.6 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | brine | 2 mL | [Cl-].[Na+].O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (1-methanesulfonyloxymethyl-cyclopropyl)-acetic acid methyl ester | 962 mg | COC(CC1(CC1)COS(=O)(=O)C)=O | C8H14O5S
